US07683056B2
2-[3,5-Bis(trifluoromethyl)phenyl]-N,2-dimethyl-N-[4-(2-methylphenyl)-6-(6-oxohexahydropyrrolo[1,2-a]pyrazin-2(1H)-yl)-3-pyridinyl]propanamide (E5)
A 8 ml sealed vial was charged with 100 mg (0.161 mmoles) of 2-[3,5-bis(trifluoromethyl)phenyl]-N-[6-chloro-4-(2-methylphenyl)-3-pyridinyl]-N,2-dimethylpropanamide (WO 2005/002577), 67 mg (0.483 mmol) of hexahydropyrrolo[1,2-a]pyrazin-6(2H)-one (WO 2003/066635), 44.5 mg (0.322 mmol) of potassium carbonate; the reagents were dissolved in 0.8 ml of DMSO. The reaction mixture was heated at 180° C. for 36-48 hrs and then added to a saturated NH4Cl solution and back extracted with DCM; the crude material was purified on SPE cartridge (Silica) eluting with a gradient from cyclohexane/ethyl acetate 9:1, to ethyl acetate 100% and affording 45 mg of the title compound as pale yellow solid.

reactant | 2-[3,5-bis(trifluoromethyl)phenyl]-N-[6-chloro-4-(2-methylphenyl)-3-pyridinyl]-N,2-dimethylpropanamide | 0.161 mmoles, 100 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C)C=1C=NC(=CC1C1=C(C=CC=C1)C)Cl)(C)C)(F)F | C25H21ClF6N2O
reactant | hexahydropyrrolo[1,2-a]pyrazin-6(2H)-one | 0.483 mmol, 67 mg | C1C2N(CCN1)C(CC2)=O | C7H12N2O
reactant | potassium carbonate | 0.322 mmol, 44.5 mg | C([O-])([O-])=O.[K+].[K+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMSO | 0.8 ml | CS(=O)C | C2H6OS
product | 2-[3,5-Bis(trifluoromethyl)phenyl]-N,2-dimethyl-N-[4-(2-methylphenyl)-6-(6-oxohexahydropyrrolo[1,2-a]pyrazin-2(1H)-yl)-3-pyridinyl]propanamide | 45 mg | FC(C=1C=C(C=C(C1)C(F)(F)F)C(C(=O)N(C=1C=NC(=CC1C1=C(C=CC=C1)C)N1CC2N(CC1)C(CC2)=O)C)(C)C)(F)F | C32H32F6N4O2
